US08809369B2
To a stirred solution of N-isopropyl-4-nitro-benzenesulfonamide (9.0 g, 37.0 mmol) ethanol (500 mL) was added iron powder (11.0 g, 196.0 mmol) and the solution of ammonium chloride (22.0 g, 392.0 mmol) in water (150 mL). After the reaction mixture was refluxed for 3 h, the iron was filtered off and the filtrate was basified to pH 9 by addition of sodium carbonate. The reaction mixture was extracted with ethyl acetate (300 mL×2). The extract was washed with water (130 mL×2) and brine (130 mL×2), dried over anhydrous sodium sulfate. The solvent was removed in vacuo and the residue was purified by ISCO combi-flash chromatography (gradient elution, 20-60% ethyl acetate in petroleum ether) to afford 4-amino-N-isopropyl-benzenesulfonamide (7.0 g, 89%) as a yellow powder: MS (ESI) M+1=215.

reactant | N-isopropyl-4-nitro-benzenesulfonamide | 37.0 mmol, 500 mL, 9.0 g | C(C)(C)NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C9H12N2O4S
reactant | ammonium chloride | 392.0 mmol, 22.0 g | [Cl-].[NH4+]
solvent | water | 150 mL | O | H2O
catalyst | iron | 196.0 mmol, 11.0 g | [Fe] | Fe
product | 4-amino-N-isopropyl-benzenesulfonamide | 7.0 g, 89% | NC1=CC=C(C=C1)S(=O)(=O)NC(C)C | C9H14N2O2S
